US05618949
3a. 3-(trans-1-benzyl-4-methyl-3-pyrrolidinylcarbonyl)-4-(S)-isopropyl-2-oxazolidinone
3-(trans-3-Methyl-2-propenoyl)-4-(S)-isopropyl-2-oxazolidinone (197 mg, 1.00 mmol, Aldrich) was reacted with N-benzyl-N-(methoxymethyl)trimethylsilylmethylamine (238 mg, 1.00 mmol) according to the procedure of Example 1d, to afford the title compound (300 mg). The diasteromers were separated as in Example 1d, and the (3R,4R)-isomer was taken to the next step. MS m/z 331 (M+H)+. The (3S,4S)-isomer was taken to Example 4. MS m/z 331 (M+H)+.

reactant | 3-(trans-3-Methyl-2-propenoyl)-4-(S)-isopropyl-2-oxazolidinone | 1.00 mmol, 197 mg | C/C=C/C(=O)N1C(OC[C@@H]1C(C)C)=O | C10H15NO3
reactant | N-benzyl-N-(methoxymethyl)trimethylsilylmethylamine | 1.00 mmol, 238 mg | C(C1=CC=CC=C1)N(COC)C[Si](C)(C)C | C13H23NOSi
product | 3-(trans-1-benzyl-4-methyl-3-pyrrolidinylcarbonyl)-4-(S)-isopropyl-2-oxazolidinone | 300 mg | C(C1=CC=CC=C1)N1C[C@H]([C@@H](C1)C)C(=O)N1C(OC[C@@H]1C(C)C)=O | C19H26N2O3
